USH0001809
Examples of the combined processes of Steps 2 and 3 include the reaction of 5-chloro-2, 4-dihydro-2-methyl-4-[2-[[[[1-[3(trifluoromethyl)phenyl]-ethylidene]amino]oxy]methyl]phenyl]- 3H-1,2,4-triazol-3-one with 1-[3-(trifluoromethyl)phenyl]ethanone oxime in the presence of a base (e.g., KOH, NaH or K t-butoxide) in a suitable solvent (e.g., THF) and the subsequent reaction of the product of that reaction with methanol in the THF solution to form 2,4-dihydro-5-methoxy-2-methyl-4-[2-[[[[1-[3-(trifluoromethyl)phenyl]-ethylidene]amino]oxy]methyl]phenyl]- 3H-1,2,4-triazol-3-one; the reaction of 5-chloro-2, 4-dihydro-2-methyl-4-[2-[[[[1-[3(trifluoromethyl)phenyl]-ethylidene]amino]oxy]methyl]phenyl]- 3H-1,2,4-triazol-3-one with 1-[3,5-(bistrifluoromethyl)phenyl]ethanone oxime in the presence of a base and the subsequent reaction of the product of that reaction with methanol to form 5-chloro-2, 4-dihydro-2-methyl-4-[2-[[[[1-[3(trifluoromethyl)phenyl]-ethylidene]amino]oxy]methyl]phenyl]-3H-1,2,4-triazol-3-one.

reactant | 5-chloro-2, 4-dihydro-2-methyl-4-[2-[[[[1-[3(trifluoromethyl)phenyl]-ethylidene]amino]oxy]methyl]phenyl]- 3H-1,2,4-triazol-3-one | ClC=1N(C(N(N1)C)=O)C1=C(C=CC=C1)CON=C(C)C1=CC(=CC=C1)C(F)(F)F | C19H16ClF3N4O2
reactant | 1-[3-(trifluoromethyl)phenyl]ethanone oxime | FC(C=1C=C(C=CC1)C(C)=NO)(F)F | C9H8F3NO
reactant | KOH | [OH-].[K+]
reactant | NaH | [H-].[Na+]
reactant | t-butoxide | CC(C)([O-])C
solvent | THF | C1CCOC1 | C4H8O
solvent | methanol | CO | CH4O
product | 2,4-dihydro-5-methoxy-2-methyl-4-[2-[[[[1-[3-(trifluoromethyl)phenyl]-ethylidene]amino]oxy]methyl]phenyl]- 3H-1,2,4-triazol-3-one | COC=1N(C(N(N1)C)=O)C1=C(C=CC=C1)CON=C(C)C1=CC(=CC=C1)C(F)(F)F | C20H19F3N4O3
